* gnetlist -g spice-sdb -o minigamma.net minigamma.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
R2M2_in t1_b Vcc 2.2Meg  
V_t2_b 2 t1_c DC 0V
Rout 0 vout 5Meg  
R1k5 5 Vcc 1.5k  
R220k 4 Vcc 220k  
Q547C_b 5 4 vout BC547C 
Q547C_a 4 v_c 0 BC547C 
V_t1_b 1 t1_b DC 0V
V_t0_b 3 vin DC 0V
XD1 0 vin 1N4148
I_photo vin 0 pulse 0 150u 1u 100n 100n 1u
Q557_photo 0 3 t1_b BC557 
Vcc Vcc 0 DC 9V
R_split_a v_c 4 2.2Meg  
Q557_b t2_c 2 t2_e BC557 
Q557_a t1_c 1 t1_e BC557 
C100n_b t2_c v_c 100n  
C100n_a t2_e 0 100n  
C4u7 0 t1_e 4.7u  
R100k_b 0 t2_c 100k  
R2M2 t2_e Vcc 2.2Meg  
R47 t1_e Vcc 47k  
R100k_a 0 t1_c 100k  
.end
