* gnetlist -g spice-sdb -o minigamma.net minigamma.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
XLED_b 4 5 1N4148
V_I_out 5 0 DC 0V
XLED_a vout 4 1N4148
Q547C_2 t2_e t1_c t2_c BC547C 
R_in_denoise vin Vcc 10Meg  
R1k5 3 Vcc 1.5k  
R220k t4_b Vcc 220k  
Q547C_b 3 t4_b vout BC547C 
Q547C_a t4_b v_c 0 BC547C 
R_split_b v_c t4_b 2.2Meg  
V_t1_b 1 t1_b DC 0V
V_t0_b 2 vin DC 0V
XD1 0 vin 1N4148
I_photo vin 0 pulse 0 15u 1u 100n 100n 1u 1000u
Q557_photo 0 2 t1_b BC557 
Vcc Vcc 0 DC 9V
R_split_a 0 v_c 2.2Meg  
Q557_a t1_c 1 t1_e BC557 
C100n_b t2_c v_c 2p  
C100n_a t2_e 0 10p  
C4u7 0 t1_e 4.7u  
R100k_b 0 t2_c 100k  
R2M2 t2_e Vcc 2.2Meg  
R47 t1_e Vcc 47k  
R100k_a 0 t1_c 100k  
.end
